US08283353B2
ethyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-4-{[(4-methylphenyl)sulfonyl]oxy}butanoate
A mixture of ethyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-4-hydroxybutanoate (0.47 g), 4-methylbenzenesulfonyl chloride (0.59 g) and pyridine (5 mL) was stirred at room temperature for 3 hr. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.42 g, 70%).

reactant | ethyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-4-hydroxybutanoate | 0.47 g | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(=O)OCC)CCO)=O)F | C34H38FN5O5
reactant | 4-methylbenzenesulfonyl chloride | 0.59 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-4-{[(4-methylphenyl)sulfonyl]oxy}butanoate | 0.42 g, 70% | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(=O)OCC)CCOS(=O)(=O)C2=CC=C(C=C2)C)=O)F | C41H44FN5O7S
